US08729274B2
A solution of 3-chloro-1,2-dihydrocyclobutabenzene-1-carbonitrile (196 mmol, 32 g) and potassium hydroxide (978 mmol, 54.9 g) in EtOH (500 ml)/water (100 ml) was stirred at reflux for 2 h. After evaporation of the organic solvent, the aqueous residue was washed with Et2O. The organic layer was extracted with 2N NaOH aq. and combined aqueous layers were acidified with 5 N HCl and extracted with Et2O. The extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was washed with heptane/Et2O (5/1) to afford 3-chloro-1,2-dihydrocyclobutabenzene-1-carboxylic acid (85% yield, 30.3 g).

reactant | 3-chloro-1,2-dihydrocyclobutabenzene-1-carbonitrile | 196 mmol, 32 g | ClC1=CC=CC2=C1CC2C#N | C9H6ClN
reactant | potassium hydroxide | 978 mmol, 54.9 g | [OH-].[K+]
reactant | water | 100 ml | O | H2O
solvent | EtOH | 500 ml | CCO | C2H6O
product | 3-chloro-1,2-dihydrocyclobutabenzene-1-carboxylic acid | 30.3 g, 85% yield | ClC1=CC=CC2=C1CC2C(=O)O | C9H7ClO2
